US04536507
8-Amino-3-cyanodibenzo[b,f]thiepin-5,5-dioxide
875 Mg. 3-cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide are dissolved in 105 cc. tetrahydrofuran. 15 CC. concentrated hydrochloric acid is added, followed by 3.8 g. stannous chloride dihydrate and the mixture is stirred for 24 hours. A solution of 20% sodium hydroxide is added, the mixture is shaken and the organic layer separated; the aqueous phase extracted once with ethyl acetate. The combined organic extracts are dried over sodium sulfate and evaporated to dryness. The residue is chromatographed on silica gel to yield 464 mg. (58%) pure amino compound, m.p. 321°-324° C.

reactant | 3-cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide | C(#N)C=1C=CC2=C(S(C3=C(C=C2)C=C(C=C3)[N+](=O)[O-])(=O)=O)C1 | C15H8N2O4S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-Amino-3-cyanodibenzo[b,f]thiepin-5,5-dioxide | NC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C#N)C1 | C15H10N2O2S
